US06423704B1
Stir a mixture of methyl 4-hydroxy-2-methoxybenzoate (Danishefsky et al., J. Med. Chem. 1979, 101, 7001-7008, 0.37 g, 2 mmol) and 1N NaOH for two hours at room temperature. Acidify with 1N HCl and extract with dichloromethane. Dry (MgSO4) the organic phase, filter and concentrate the filtrate in vacuo. Vacuum dry the residue at room temperature overnight to afford 4-hydroxy-2-methoxybenzoic acid (0.34 g).

reactant | methyl 4-hydroxy-2-methoxybenzoate | 2 mmol, 0.37 g | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
product | 4-hydroxy-2-methoxybenzoic acid | 0.34 g | OC1=CC(=C(C(=O)O)C=C1)OC | C8H8O4
